US06632955B1
100 mg (0.26 mmol) of 3,4-di(t-butyldimethylsiloxy)benzaldehyde was dissolved in 10 ml of THF under the atmosphere of argon at −40° C., and 0.30 ml of rare earth metal complex solution A1 was mixed into the solution. After stirring for 30 minutes, 79.3 mg (1.3 mmol) of nitromethane was added dropwise to the mixture. After 67-hour reaction time, 2 ml of 1 N aqueous solution of hydrochloric acid was added to stop the reaction. Then, after 50 ml of ethyl accetate was added, the mixture was subjected to oil-water separation twice with 20 ml of saturated salt solution and once with 20 ml of water, and the ethyl accetate layer was dehydrated with sodium sulfate anhydride and concentrated within evaporator, followed by the purification of the concentrate by silica gel chromatography (n-hexane/acetone=10/1), after which (R)-1-(3,4-di(t-butyldimethylsiloxy)phenyl)-2-nitroethanol with an optical purity of 92% e.e. was obtained in a yield of 93%.

reactant | 3,4-di(t-butyldimethylsiloxy)benzaldehyde | 0.26 mmol, 100 mg | O([Si](C)(C)C(C)(C)C)C=1C=C(C=O)C=CC1O[Si](C)(C)C(C)(C)C | C19H34O3Si2
reactant | nitromethane | 1.3 mmol, 79.3 mg | [N+](=O)([O-])C | CH3NO2
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (R)-1-(3,4-di(t-butyldimethylsiloxy)phenyl)-2-nitroethanol | yield of 93% | O([Si](C)(C)C(C)(C)C)C=1C=C(C=CC1O[Si](C)(C)C(C)(C)C)[C@H](C[N+](=O)[O-])O | C20H37NO5Si2
